US08580147B2
4-Ethoxy-2,2′,3,3′-tetrafluoro-1,1′-biphenyl (s-7) (28.0 g) and THF (500 ml) were placed in a reaction vessel under an atmosphere of nitrogen, and cooled to −74° C. sec-Butyllithium (1.00M; n-hexane and cyclohexane solution; 109 ml) was added dropwise in the temperature range of −74° C. to −70° C., and the stirring was continued for another 2 hours. N,N-Dimethylformamide (8.0 g) in a THF (200 ml) solution was added dropwise in the temperature range of −75° C. to −70° C., and the stirring was continued for 8 hours while the mixture was allowed to return to 25° C. The resulting reaction mixture was poured into a vessel containing a 1N-HCl aqueous solution (300 ml) and ethyl acetate (300 ml) and mixed with them. The mixture was then allowed to stand until it had separated into organic and aqueous layers, and the extraction was carried out. The resulting organic layers were separated, and washed with a saturated aqueous solution of sodium hydrogencarbonate and water, and then dried over anhydrous magnesium sulfate. The resulting solution was purified by column chromatography using silica gel as a stationary phase powder and toluene as an eluent and further purified by recrystallization from a mixed solvent of THF and heptane (THF:heptane=1:5 by volume) and dried to give 4′-ethoxy-2,2′,3,3′-tetrafluoro-1,1′-biphenyl-4-carboxaldehyde (s-8) (28.0 g). The yield based on the compound (s-7) was 90.6%.

reactant | 4-Ethoxy-2,2′,3,3′-tetrafluoro-1,1′-biphenyl | 28.0 g | C(C)OC1=C(C(=C(C=C1)C1=C(C(=CC=C1)F)F)F)F | C14H10F4O
reactant | sec-Butyllithium | 1.00M, 109 ml | C(C)(CC)[Li]
reactant | HCl | 300 ml | Cl | ClH
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | N,N-Dimethylformamide | 8.0 g | CN(C=O)C | C3H7NO
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 4′-ethoxy-2,2′,3,3′-tetrafluoro-1,1′-biphenyl-4-carboxaldehyde | 28.0 g | C(C)OC1=C(C(=C(C=C1)C1=C(C(=C(C=C1)C=O)F)F)F)F | C15H10F4O2
